US05162316
7-Morpholino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine
A stirred solution of 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.60 g) and morpholine (1.25 g) in pyridine (20 ml) was heated under reflux for 45 hours. The reaction mixture was evaporated under reduced pressure to yield a crude product which was washed with water and twice recrystallised from methanol to yield the title compound, 0.25 g, m.p. 175.5°-177° C.

reactant | 7-methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.60 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | morpholine | 1.25 g | N1CCOCC1 | C4H9NO
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 7-Morpholino-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | O1CCN(CC1)C1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C19H21N5O3
